US07601844B2
(R)-2-Amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one (200 mg, 0.533 mmol), 3-sulfamoylbenzoic acid (129 mg, 0.639 mmol), HOBT (98 mg, 0.639 mmol), EDC (123 mg, 0.639 mmol) and triethylamine (0.149 mL, 1.066 mmol) were mixed in methylene chloride (3 mL) at 25° C. with stirring. The reaction was stirred for 20 hours then washed with sat'd sodium bicarbonate. The methylene chloride layer was dried over sodium sulfate and concentrated in vacuo to give a white glass which was purified over silica gel (1:1 Hexanes/EtOAc to 100% EtOAc) to obtain N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-3-sulfamoylbenzamide (197 mg, 0.377 mmol, 70% yield) as a white glass. MS found: (M+H)+=522.32.

reactant | (R)-2-Amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one | 0.533 mmol, 200 mg | N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C | C18H27ClN2O2
reactant | 3-sulfamoylbenzoic acid | 0.639 mmol, 129 mg | S(N)(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H7NO4S
reactant | HOBT | 0.639 mmol, 98 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.639 mmol, 123 mg
reactant | triethylamine | 1.066 mmol, 0.149 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-3-sulfamoylbenzamide | 0.377 mmol, 197 mg, 70% yield | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC(C1=CC(=CC=C1)S(N)(=O)=O)=O)=O)(C)C)O | C25H32ClN3O5S
